US07994209B2
3-[(4,4-Difluorocyclohexyl)hydroxymethyl]pyrrolidine-1-carboxylic Acid t-Butyl Ester
The title compound was prepared in a manner similar to that described in Preparation 9 for the synthesis of (S)-3-((R)-cyclohexylhydroxymethyl)pyrrolidine-1-carboxylic acid t-butyl ester. (S)-3-Formylpyrrolidine-1-carboxylic acid t-butyl ester and LiHMDS were dissolved in THF under nitrogen and cooled at −78° C. 4,4-Difluoro-cyclohexanecarbonyl chloride (prepared by treatment of 4,4-difluorocyclohexane carboxylic acid with thionyl chloride in THF at 50° C. for 2 hours), was then added and the resulting mixture was stirred at −78° C. then allowed to reach room temperature overnight. BH3.Me2S in THF was added and the resulting mixture stirred at room temperature for 1 hour, then refluxed for 1 hour. The solids (1.03 g) were separated and dissolved in 1:1 AcOH:H2O (20 mL) and purified by preparative HPLC (BDS, 40-60%). This was repeated twice to yield:

reactant | (S)-3-((R)-cyclohexylhydroxymethyl)pyrrolidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](O)C1CCCCC1 | C16H29NO3
reactant | (S)-3-Formylpyrrolidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C=O | C10H17NO3
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4,4-Difluoro-cyclohexanecarbonyl chloride | FC1(CCC(CC1)C(=O)Cl)F | C7H9ClF2O
reactant | Me2S | S(C)C | C2H6S
solvent | THF | C1CCOC1 | C4H8O
product | 3-[(4,4-Difluorocyclohexyl)hydroxymethyl]pyrrolidine-1-carboxylic Acid t-Butyl Ester | C(C)(C)(C)OC(=O)N1CC(CC1)C(O)C1CCC(CC1)(F)F | C16H27F2NO3
